US07632838B2
To a clear solution of 4-(3-trifluoromethyl-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester in anhydrous dichloromethane (15 mL) was added TFA (8 mL) dropwise. The yellow solution was stirred at room temperature for 2.5 hour. Reaction was complete as determined by TLC. TFA was removed under reduced pressure. The residue was redissolved in dichloromethane (50 mL), and washed with sat. K2CO3 solution first, then washed with brine and dried over Na2SO4, filtered and concentrated down to give 1-(3-trifluoromethyl-pyridin-2-yl)-piperazine as a light yellow oil (1.19 g, 96.0% yield).

reactant | 4-(3-trifluoromethyl-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CC=C1C(F)(F)F | C15H20F3N3O2
reactant | TFA | 8 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 1-(3-trifluoromethyl-pyridin-2-yl)-piperazine | 1.19 g, 96.0% yield | FC(C=1C(=NC=CC1)N1CCNCC1)(F)F | C10H12F3N3
